US05700448
N,N-bis(2,3-dihydroxypropyl-1-hydroxy-2,4,6-triiodobenzene-3,5-dicarboxylic acid diamide
N,N-bis(2,3-dihydroxypropyl)-1-hydroxy-2,4,6-triiodobenzene-3,5-dicarboxylic acid diamide (13.1 g, 40 mmol) was dissolved in water (160 mL) and pH was adjusted to 3.9 using aqueous HCl. To this solution, NaICl2 (42.6 g, 50.3%, 40 mmol) was added dropwise during a period of 30 minutes. After standing overnight, the reaction mixture was evaporated. The product was purified by preparative HPLC (RP-18, CH3CN: H2O 15:85, 1% TFA). Yield 22.3 g (79%).

reactant | N,N-bis(2,3-dihydroxypropyl)-1-hydroxy-2,4,6-triiodobenzene-3,5-dicarboxylic acid diamide | 40 mmol, 13.1 g | OC(CN(C(=O)C=1C(=C(C(=C(C1I)C(=O)N)I)O)I)CC(CO)O)CO | C14H17I3N2O7
reactant | HCl | Cl | ClH
solvent | water | 160 mL | O | H2O
product | 2,3-dihydroxypropyl-1-hydroxy-2,4,6-triiodobenzene-3,5-dicarboxylic acid diamide | OC(CNC(=O)C=1C(=C(C(=C(C1I)C(=O)N)I)O)I)CO | C11H11I3N2O5
